US08119665B2
To a solution of 1-butyl-4-phenylimidazole (4.0 g, 20 mmol) in 60 ml of anhydrous THF at −78° C. under nitrogen is added a solution of n-butyllithium in hexane (1.6M, 13.13 ml, 21 mmol, 1.05 eq.) dropwise. The resulting mixture is stirred at −78° C. for 1 h followed by dropwise addition of a solution of iodine (5.33 g, 21 mmol, 1.05 eq.) in 40 ml of THF. The resulting solution is stirred at −78° C. for 30 min. and then warmed to room temperature. Saturated ammonium chloride (30 mL) is added to quench the reaction. The resulting mixture is evaporated a reduced pressure to remove THF, extracted with ethyl acetate, washed with water and brine, dried over Na2-SO4, filtered and evaporated. Purification by silica gel chromatography (hexanes/ethyl acetate, from 8:1 to 5:1) affords 5.73 g of butyl-2-iodo-4-phenylimidazole. 1H NMR (400 MHz, CDCl3) δ 7.73 (2H, dd, J=1.2, 8.4 Hz), 7.36 (2H, m), 7.30 (1H, s), 7.24 (1H, m), 3.91 (2H, t, J=7.2 Hz), 179 (2H, m), 1.41 (2H, m), 0.98 (3H, t, J=7.2Hz); MS (+VE) m/z 327 (M+1).

reactant | 1-butyl-4-phenylimidazole | 20 mmol, 4.0 g | C(CCC)N1C=NC(=C1)C1=CC=CC=C1 | C13H16N2
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 21 mmol, 1.6M, 13.13 ml, 1.05 eq. | CCCCCC | C6H14
reactant | iodine | 21 mmol, 5.33 g, 1.05 eq. | II | I2
reactant | ammonium chloride | 30 mL | [Cl-].[NH4+]
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | butyl-2-iodo-4-phenylimidazole | 5.73 g | C(CCC)C1=C(N=C(N1)I)C1=CC=CC=C1 | C13H15IN2
